US04012373
b. 4-[[(2-ethylamino)phenyl]amino]-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid
3.5 g. of 4-[[(2-ethylamino)phenyl]amino]-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester (0.01 mol.) are heated at 60° for 12 hours with a solution of 1.7 g. of potassium hydroxide in 50 ml. of alcohol. The solvent is distilled off and the residue is dissolved in about 100 ml. of water. On acidifying with acetic acid, 4-[[(2-ethylamino)phenyl]amino]-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid crystallizes and is purified by recrystallization from acetic acid, yeild 2.8 g. (93%), m.p. 224°-226°.

reactant | 4-[[(2-ethylamino)phenyl]amino]-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | 0.01 mol | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2)CC)NC2=C(C=CC=C2)NCC | C19H23N5O2
reactant | potassium hydroxide | [OH-].[K+]
product | 4-[[(2-ethylamino)phenyl]amino]-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid | CCNC1=C(C=CC=C1)NC1=C2C(=NC=C1C(=O)O)N(N=C2)CC | C17H19N5O2
